US04303583
2,3-Dihydro-1-(1-oxo-2-propenyl)-1H-indole-2-carboxylic acid
A mixture of 2,3-dihydro-1-(1-oxo-2-propenyl)-1H-indole-2-carboxylic acid ethyl ester (14.4 g.), 80% aqueous dimethylsulfoxide (200 ml.) and potassium hydroxide (86% pellets, 3.83 g.) was stirred under nitrogen atmosphere for 2.5 days at room temperature, then evaporated under reduced pressure on a rotary evaporator to give an oily residue. The residue was dissolved in water with the aide of a small amount of dilute sodium hydroxide solution. The aqueous solution was washed with ether twice, then made acidic by addition of dilute hydrochloric acid to pH ca. 2. The oil thus separated was extracted with ether three times. The combined ether extract was washed with water, then with saline, and dried over anhydrous magnesium sulfate. Evaporation of the ether on a rotary evaporator under reduced pressure gave a solid residue which melted at 158°-160°, and weighed 9.2 g. Recrystallization from ethyl acetate improved the melting point to 167°-169°.

reactant | 2,3-dihydro-1-(1-oxo-2-propenyl)-1H-indole-2-carboxylic acid ethyl ester | 14.4 g | C(C)OC(=O)C1N(C2=CC=CC=C2C1)C(C=C)=O | C14H15NO3
reactant | dimethylsulfoxide | 200 ml | CS(=O)C | C2H6OS
reactant | potassium hydroxide | 3.83 g | [OH-].[K+]
solvent | water | O | H2O
solvent | sodium hydroxide | [OH-].[Na+]
product | 2,3-Dihydro-1-(1-oxo-2-propenyl)-1H-indole-2-carboxylic acid | O=C(C=C)N1C(CC2=CC=CC=C12)C(=O)O | C12H11NO3
